US08053438B2
STEP 1: 4-(3-FLUOROPYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-OL
A 2.5M solution of nbuli (4.49 mL, 11.22 mmol)/hexane in THF (3 mL) was first cooled to −78° C. To the cooled solution was added dropwise, 2,2,6,6-tetramethylpiperidine (2.065 mL, 12.24 mmol). The dry ice bath was then switched to a 0° C. bath. The reaction mixture was stirred for 10 min at 0° C. and then the dry ice bath was switched back to recool the reaction mixture to −78° C. To the cooled solution was added 2-fluoropyrazine (1 g, 10.20 mmol), dropwise. After 5 min of stirring at −78° C., a solution of dihydro-2H-pyran-4(3H)-one (0.937 mL, 10.20 mmol) in 0.6 mL of THF was added dropwise. The resulting mixture was allowed to gradually warm to room temperature overnight. Reaction was quenched with saturated NH4Cl and extracted with EtOAc. Purification by Biotage (0-100% EtOAc/hexane) produced product.

reactant | 2,2,6,6-tetramethylpiperidine | 12.24 mmol, 2.065 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | dry ice | C(=O)=O | CO2
reactant | 2-fluoropyrazine | 10.20 mmol, 1 g | FC1=NC=CN=C1 | C4H3FN2
reactant | dihydro-2H-pyran-4(3H)-one | 10.20 mmol, 0.937 mL | O1CCC(CC1)=O | C5H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-(3-FLUOROPYRAZIN-2-YL)TETRAHYDRO-2H-PYRAN-4-OL | FC=1C(=NC=CN1)C1(CCOCC1)O | C9H11FN2O2
